US08835472B2
N-{2-[4-(4-tert-Butylphenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide
To 0.50 g (1.54 mmol) trifluoro-methanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester (I53.2) and 0.32 g (2.00 mmol) 4-tert.butylphenylacetylen in 3.0 mL water and 3.0 mL sec-butylamine are added 0.10 g (0.14 mmol) bis(triphenyphosphine)dichloropalladium and the mixture is stirred at r.t. for 4 h and at 80° C. for 1 h. The reaction mixture is allowed to cool to r.t. and is then partitioned between EtOAc and citric acid (10% in water). The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified twice by column chromatography (silica gel; DCM/MeOH 9/1 and aluminium oxide DCM/EtOAc 4/1). The resulting product is triturated with MeOH.

reactant | trifluoro-methanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester | 1.54 mmol, 0.50 g | C(C)(=O)NC(CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C12H14F3NO4S
reactant | 4-tert.butylphenylacetylen | 2.00 mmol, 0.32 g | C(C)(C)(C)C1=CC=C(C=C1)C#C | C12H14
solvent | water | 3.0 mL | O | H2O
solvent | sec-butylamine | 3.0 mL | C(C)(CC)N | C4H11N
catalyst | bis(triphenyphosphine)dichloropalladium | 0.14 mmol, 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-{2-[4-(4-tert-Butylphenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide | C(C)(C)(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C23H27NO
